US08304419B2
N-({4-Chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-pyridinecarboxamide 1-oxide
To a solution of N-[4-Chloro-3-(3-chloro-5-cyanophenoxy)-2-fluorobenzyl]pyridine-2-carboxamide (0.064 g, 0.154 mmol) in 4 mL of dichloromethane was added mCPBA (0.026 g, 0.154 mmol). The resulting mixture was stirred overnight at RT. The reaction mixture was washed with 15% Na2CO3 and the organic layer separated and evaporated. The solid was dissolved in DMF and diluted with MeOH to a volume of 2 mL. Purification was accomplished by reverse-phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.006 g, 9%) as a solid. 1H NMR (400 MHz, CDCl3) δ ppm 11.74-11.85 (m, 1H), 8.44 (dd, 1H), 8.26-8.30 (m, 1H), 7.46-7.52 (m, 1H), 7.40-7.45 (m, 1H), 7.32-7.38 (m, 2H), 7.24-7.29 (m, 1H), 7.16 (t, 1H), 7.01-7.04 (m, 1H), 4.74 (d, 2H). LCMS: m/z 431.9 (M+1).

reactant | N-[4-Chloro-3-(3-chloro-5-cyanophenoxy)-2-fluorobenzyl]pyridine-2-carboxamide | 0.154 mmol, 0.064 g | ClC1=C(C(=C(CNC(=O)C2=NC=CC=C2)C=C1)F)OC1=CC(=CC(=C1)C#N)Cl | C20H12Cl2FN3O2
reactant | mCPBA | 0.154 mmol, 0.026 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-({4-Chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-2-pyridinecarboxamide 1-oxide | 0.006 g, 9% | ClC1=C(C(=C(C=C1)CNC(=O)C=1[N+](=CC=CC1)[O-])F)OC1=CC(=CC(=C1)C#N)Cl | C20H12Cl2FN3O3
